US07994203B2
3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole-7-carbonyl chloride
A mixture comprising 3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid (Intermediate IBB) (1 g, 3.08 mmol) and SOCl2 (10 ml, 137 mmol) is heated at reflux for 2 hours. After cooling to room temperature excess SOCl2 is removed under vacuum. The resulting solid is azeotroped with toluene until any remaining SOCl2 is removed to afford the title compound as a solid; 1H NMR (400 MHz, CDCl3) δ 2.48 (s, 3H), 2.53 (s, 3H), 7.48 (q, 1H), 7.52 (q, 1H), 7.62 (d, 1H).

reactant | 3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid | 3.08 mmol, 1 g | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)C(=O)O | C14H10Cl2N2O3
reactant | SOCl2 | 137 mmol, 10 ml | O=S(Cl)Cl | Cl2OS
product | 3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole-7-carbonyl chloride | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)C(=O)Cl | C14H9Cl3N2O2
